US07384957B2
(RS)-1-(2-Bromo-ethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid-tert-butyl ester Tetrahydrosioquinolinic acid (10 g) was suspended in tetrahydrofuran THF (100 mL). Triethyl amine (9.1 mL) and di-tert-butyl dicarbonate (14.3 g) was added and the mixture stirred at room temperature for 16 h. The mixture was concentrated in vacuo, redissolved in ethyl acetate (250 mL) and washed twice with and aqueous 0.5 M KHSO4-solution (200 mL), dried over magnesium sulphate and evaporated in vacuo to give 1-carboxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester in quantitative yield as a clear oil which crystallised upon standing. The protected amino acid was dissolved in dry tetrahydrofuran under nitrogen, cooled to 0° C. and 1M borane in tetrahydrofuran (41.5 mL) was added slowly under nitrogen during 15 min. The mixture was warmed to room temperature and stirred for 1 h. Excess borane was carefully destroyed by slow addition of 50 mL of a 1:1 mixture of water/tetrahydrofuran. The mixture was made alkaline to pH=12 by addition of saturated potassium carbonate and extracted with diethylether (2×50 mL). The combined organic phase were dried (magnesium sulphate) and evaporated in vacuo to give 1-(2-Hydroxy-ethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester as a clear oil (8.4 g). The protected aminoalcohol was dissolved in dry tetrahydrofuran (150 mL) together with triethylamine (5.6 mL) and cooled to 0° C. under nitrogen. Methanosulfonyl chloride (2.64 mL) in dry THF (30 mL) was added dropwise during 15 min and the mixture was warmed to room temperature and stirred for 30 min. After filtration and concentration in vacuo the clear oily residue was dissolved in acetone (300 mL), lithium bromide (14.6 g) was added and the mixture was heated to reflux for 1 h. The mixture was filtered, evaporated in vacuo and the product purified by column chromatography on silicagel using as eluent ethyl acetate/heptane (1:1) and fractions containing the product was pooled and evaporated in vacuo to give (RS)-1-(2-Bromo-ethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid-tert-butyl ester as a clear oil (8 g) which crystallised upon standing.

reactant | (RS)-1-(2-Bromo-ethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2CC1)CCBr | C16H22BrNO2
reactant | Triethyl amine | 9.1 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran THF | 100 mL | O1CCCC1.C1CCOC1 | 2C4H8O
product | 1-carboxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2CC1)CC(=O)O | C16H21NO4
